US04650810
(i) 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetic acid
A solution of 4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)butanal, diethyl acetal (36 g) in absolute ethanol (125 ml) was added to a solution of 4-hydrazinobenzene acetic acid, hydrochloride (25 g) in 25% aqueous acetic acid (640 ml) heated to 80° under nitrogen. The mixture was heated at 70°-80° for 2.75 h and the solvent was removed under reduced pressure to give a red oil. This was diluted with water and extracted with ethyl acetate (5×250 ml). A gummy solid insoluble in either phase was collected and triturated with ethanol to give the title compound as a beige solid (7.4 g). The organic extracts were dried (MgSO4) and concentrated to an oil which was taken up in chloroform and treated with diethyl ether to give a second crop as a yellow solid (13.1 g). A sample (0.5 g) of this material was purified by column chromatography (Whatman MFC silica, 25 g) and elution with ethyl acetate--light petroleum (1:1) gave the title compound as a yellow solid (0.35 g) m.p. 189°-191.5°.

reactant | 4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)butanal | O=C1N(C(C2=CC=CC=C12)=O)CCCC=O | C12H11NO3
reactant | 4-hydrazinobenzene acetic acid, hydrochloride | 25 g | Cl.N(N)C1=CC=C(C=C1)CC(=O)O
solvent | ethanol | 125 ml | C(C)O | C2H6O
solvent | acetic acid | 640 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetic acid | 7.4 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CC(=O)O | C20H16N2O4
